US05384318
(+)-Cis-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro-4-hydroxy-2H-1-benzopyran-3-yl]methyl]-N-(methanesulfonyl)benzamide
Synthesis was carried out as in example 1, but using 1.7 grams optically pure (+)cis-4-nitrophenyl-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro -4-hydroxy-2H-1-benzopyran-3-yl]methyl]benzoate, 410 milligrams sodium hydride and 1.65 grams methanesulfonamide. 187 milligrams of product was obtained. αD =33.4°; c=0.005 in tetrahydrofuran.

reactant | (+)cis-4-nitrophenyl-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro -4-hydroxy-2H-1-benzopyran-3-yl]methyl]benzoate | [N+](=O)([O-])C1=CC=C(C=C1)C1=C(C(=O)[O-])C=CC=C1C[C@@H]1COC2=C([C@@H]1O)C=C(C=C2)OCC=2SC1=C(N2)C=C(C=C1)F
reactant | sodium hydride | 410 milligrams | [H-].[Na+]
reactant | methanesulfonamide | 1.65 grams | CS(=O)(=O)N | CH5NO2S
product | (+)-Cis-3-[[6-[(5-fluoro-2-benzothiazolyl)methoxy]-3,4-dihydro-4-hydroxy-2H-1-benzopyran-3-yl]methyl]-N-(methanesulfonyl)benzamide | 187 milligrams | FC=1C=CC2=C(N=C(S2)COC=2C=CC3=C([C@@H]([C@@H](CO3)CC=3C=C(C(=O)NS(=O)(=O)C)C=CC3)O)C2)C1 | C26H23FN2O6S2
